US07790756B2
Using a procedure analogous to Example A2, 4-amino-2,3-difluorophenol (6 g, 41.4 mmol), potassium tert-butoxide (4.9 g, 43.5 mmol) and 2,4-dichoropyridine (6.1 g, 41.4 mmol) were combined to afford 4-(2-chloro-pyridin-4-yloxy)-2,3-difluorophenylamine (7 g, 66% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.27 (d, J=6.0 Hz, 1H), 7.05 (s, 1H), 6.95 (m, 1H), 6.92 (d, J=8.8 Hz, 1H), 6.62 (d, J=8.8 Hz, 1H), 5.60 (s, 2H).

reactant | 4-amino-2,3-difluorophenol | 41.4 mmol, 6 g | NC1=C(C(=C(C=C1)O)F)F | C6H5F2NO
reactant | potassium tert-butoxide | 43.5 mmol, 4.9 g | CC(C)([O-])C.[K+]
reactant | 2,4-dichoropyridine | 41.4 mmol, 6.1 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
product | 4-(2-chloro-pyridin-4-yloxy)-2,3-difluorophenylamine | 7 g, 66% yield | ClC1=NC=CC(=C1)OC1=C(C(=C(C=C1)N)F)F | C11H7ClF2N2O
